US05051413
By reaction of 2-formylamino-3-hydroxy-4-benzyl-3-pentenoic acid ethyl ester with thionyl bromide and subsequent treatment with triethyl phosphite at 100° in a manner analogous to that described in Example 1, and after chromatography (silica gel; ethyl acetate), E-2-formylamino-4-benzyl-5-diethylphosphono-3-pentenoic acid ethyl ester is obtained in the form of a colourless oil, 1H-NMR (CDCl3): 2.45 (d, 2H, C(5)--H); 3.80 (s, 1H, CH2); 5.51 (m, 1H, C(3)--H).

reactant | 2-formylamino-3-hydroxy-4-benzyl-3-pentenoic acid ethyl ester | C(C)OC(C(C(=C(C)CC1=CC=CC=C1)O)NC=O)=O | C15H19NO4
reactant | thionyl bromide | S(=O)(Br)Br | Br2OS
reactant | triethyl phosphite | P(OCC)(OCC)OCC | C6H15O3P
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | E-2-formylamino-4-benzyl-5-diethylphosphono-3-pentenoic acid ethyl ester | C(C)OC(C(\C=C(\CP(=O)(OCC)OCC)/CC1=CC=CC=C1)NC=O)=O | C19H28NO6P
